Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I've been dealing with my mom's cancer..." 
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
For further details of the history and presentation, please see 
OMR including Dr. ___ initial consultation note 
and Dr. ___ admission note dated ___. 
. 
Briefly, this is an ___ year old ___ student, currently a 
student at ___ with a self reported history of MDD, ADHD who 
presented to ___ ED with his school counselor due to worsening 
depression and SI. 
. 
Upon initial interview, patient reported he had numerous recent 
stressors, including learning that his mother, who lives in 
___, was diagnosed with breast cancer that has spread to 
the lymph nodes. Mr. ___ also reported he has been unhappy 
in his relationship with his girlfriend of 7 months and that 
they broke on ___. He stated she was his only support in the 
area and that he is no longer speaking with her. Mr. ___ 
stated he was referred to student counseling following a 
screening questionnaire that indicated he was suffering from 
depression. He first met with a mental health counselor last 
___ and has seen her 3 times, noting that on each 
subsequent visit his screening questionnaires have gotten worse, 
and so his counselor brought him to the ED. 
. 
Patient reported his mood has been "terrible" over the past 
month, coinciding with his mother's diagnosis. Reported poor 
sleep due to rumination and worry about his mother and "feeling 
alone." Stated he wakes up several times per night and sleeps 
about 4 hours a night for the past month. Reported poor energy,
headaches, decreased appetite and has to "force" himself to eat. 
Admitted to SI for the past few days with thoughts of "putting a 
gun in my mouth" but states he does not have access to a gun. 
. 
Patient reported that on the day prior to presentation, he 
decided to  impulsively get a tattoo. He also noted to drinking 
alcohol to cope with his depression, drinking up to a 6 pack of 
beer a weeknight. On a weekend he does not count how many drinks 
he has but denied frank blackouts. 
. 
Collateral from school, ___ PhD ___, the counselor 
on call noted she had met the patient 3 times and was concerned 
for significant depression, anxiety, social anxiety, alcohol 
use, and hostility. 
. 
ED Course: patient was in good behavioral control and did not 
require physical or chemical restraints. 
. 
On my interview with Mr. ___, who confirmed the history 
initially provided to the ED and was a reliable historian, he 
stated that until recently he did not realize the extent of his 
depression. Reported he had noticed feeling "tired" but did not 
realize how depressed he had been until he broke up with his 
girlfriend, "she was my main support." Patient confirmed he has 
had difficulty sleeping, which he notes has been going on for a 
while and difficulty with eating, although "I can make myself 
eat." He reported his main concern is "when you're depressed and 
feeling empty, suddenly you think suicide would end the pain." 
He stated he has had fleeting thoughts of suicide with images of 
putting a gun to his mouth, but denies intent or plan. Reported
he is in the hospital "mainly as a precautionary, but I'm 
okay... I just need some rest and time to recalibrate."  
. 
Reported he slept well on the unit, but confirmed difficulties 
falling asleep and staying asleep while at home. Reported poor 
energy with fatigue, poor concentration, poor appetite with some 
weight loss. Denied current suicidal ideation and denied 
homicidal ideation. Reported anxiety and stated, "If I feel 
trapped, I can have a panic attack, which happened yesterday." 
. 
On psychiatric review of systems, denied history of mania 
including decreased need for sleep, increased impulsivity, 
grandiosity. Denied history of psychosis including AVH, 
paranoia. Alcohol use as noted above in binge pattern, which he 
is using to cope. Denies illicit drug use but occasional tobacco 
use. 

 
Past Medical History:
Past Psychiatric History: 
- Diagnoses: major depressive disorder, ADHD, diagnosed by a
psychiatrist in ___
- ___: denies
- Current treaters and treatment: Previously saw a psychiatrist
in ___ ___ years ago). No current psychiatrist. Has had 
three
visits at ___ with ___, a counselor.
- Medication and ECT trials: Trialed Zoloft in ___ for
depression, but notes that he was heavily drinking at the time 
so
uncertain if it was effective or not. Has used Ritalin in the
past for ADHD, but states that he had impaired sleep so it was
discontinued.
- Self-injury: History of cutting his forearms with a small
knife, states that he stopped cutting at around ___. Numerous
linear scars on b/l arms. Denies any recent SIB.
- Suicide attempts: reports that when he was ___, he tied a
necktie around his neck and started to strangle himself. His
mother walked in on him and stopped him. He was not sure "how 
far
I was going to take it."
- Harm to others: Denies
- Access to weapons: Denies
. 
PAST MEDICAL HISTORY:
-At age ___, in ___, reports that he was "jaywalking 
impulsively" and was hit by a car that did not slow down. He
blacked out, and remembers awakening in an ambulance. Suffered
road burn and "rotated a vertebrae." 

 
Social History:
SUBSTANCE ABUSE HISTORY:
- Alcohol: as per HPI, longstanding history of heavy drinking 
since age ___, explains that he drinks to cope with his 
depression. He explains that the amount he drinks varies, up to 
a 6-pack of beer on a week night. On weekend nights, he states 
that he "doesn't count" how much he drinks, but often will have 
memory lapses from the night before, but denies frank blackouts. 
He
explains that he will binge drink on the weekend as a coping 
mechanism. He denies any history of seizures or alcohol 
withdrawal symptoms.
- Tobacco: 5 cigarettes/day 
- Marijuana: denies
- Opiates, including heroin: denies, denies IVDU
- Benzodiazepines: denies
- Cocaine/Crack: denies
.
Social History: Born and raised in ___ as the oldest of 2. 
Has a sister who is age ___. Reported he was raised in a "___ 
minded" household in ___. Parents both worked as ___ 
in ___. Patient moved to ___ several years ago to attend 
___ and is currently a ___ year student in a ___ year program. 
His parents moved to ___ about a year ago in ___, 
___, where his mother used to live. Stated his mother is 
a ___ ___ and his father works ___. 
Described his father as "quiet... we have a similar mindset in 
the sense we like to be realistic about things." Reports his 
mother is "optimistic," and that discussing her cancer diagnosis 
is
difficult, "because we don't want to bring her down." Reported 
his mother is starting chemotherapy soon and has not had 
surgery; he is unsure if she is receiving surgery. Reports he 
does have friends in the ___ area and is doing fine in school 
with a 3.2 GPA. Admits his mother is worried about him, but 
states he does not want to worry her more. Denies access to 
weapons, denies legal history. Never married, no children. 
Denies history of sexual or physical abuse.  
. 

 
Family History:
- Completed or attempted suicide: Denies
- Substance use or dependence: "I wouldn't know."
- Mental Illness: mother with "anxiety"

 
Physical Exam:
VS: T: 99.3, BP: 137/92, HR: 6, R: 18, O2 sat: 100% on RA

General: ___ male in NAD. Well-nourished, 
well-developed, fairly groomed wearing hospital gowns. Appears 
stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses 
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: Multiple scars bilaterally on forearms, no rashes, 
abrasions, or lesions.
Neurological:
Cranial Nerves:
-Pupils symmetry and responsiveness to light and accommodation: 
PERRLA
-Visual fields: full to confrontation
-EOM: full
-Facial sensation to light touch in all 3 divisions: equal
-Facial symmetry on eye closure and smile: symmetric
-Hearing bilaterally to rubbing fingers: normal
-Phonation: normal
-Shoulder shrug: intact
-Tongue: midline
Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor. Strength: full power ___ throughout. Coordination: 
Normal on finger to nose test. DTRs: 2+ and symmetrical 
throughout. Sensation: Intact to light touch throughout. Gait: 
Steady. Normal stance and posture. No truncal ataxia.
Romberg: Negative.
Cognition: 
Wakefulness/alertness: awake and alert
Attention: intact to interview
Orientation: oriented to person, time, place, situation
Executive function (go-no go, Luria, trails, FAS): not tested
Memory: intact to recent and past history
Fund of knowledge: consistent with education
Calculations: not assessed
Abstraction: not assessed
Visuospatial: not assessed
Speech: normal rate, volume, and tone
Language: native ___ speaker, no paraphasic errors,
appropriate to conversation
Mental Status:
Appearance: No apparent distress, appears stated age, well
groomed, appropriately dressed
Behavior: Calm, cooperative, engaged, friendly, pleasant,
appropriate eye contact, no psychomotor agitation or retardation
Mood and Affect: "Exhausted" /blunted but reactive affect,
appropriate to situation, congruent with mood
Thought Process: linear, coherent, goal-oriented. No LOA.
Thought Content: denies SI/HI/AH/VH, no evidence of delusions or
paranoia
Judgment and Insight: Impaired/impaired
. 
Discharged Examination: 
VS: T 97.5, BP 106/72, HR 60, RR 16, SpO2 100% on RA
A/B: Appears stated age, dressed casually with excellent hygiene
and grooming, calm, cooperative with interviewer, good eye
contact, interacts well, no psychomotor agitation or retardation 
noted
S: normal rate, volume, prosody, goal directed
M: "much better"
A: euthymic, mood congruent, appropriate
TC: no evidence of delusions or paranoia; talks extensively 
about feeling better and looking forward to returning back to 
school
TP: linear, logical, goal and future oriented
C: awake, alert and oriented x3 
M: short and long term memory grossly intact 
I/J: fair/fair

 
Pertinent Results:
___ 01:32PM BLOOD WBC-6.7 RBC-4.94 Hgb-14.7 Hct-44.1 MCV-89 
MCH-29.8 MCHC-33.3 RDW-12.7 RDWSD-41.4 Plt ___
___ 01:32PM BLOOD Neuts-63.9 ___ Monos-6.9 Eos-2.2 
Baso-0.3 Im ___ AbsNeut-4.29 AbsLymp-1.77 AbsMono-0.46 
AbsEos-0.15 AbsBaso-0.02
___ 05:50AM BLOOD Glucose-97 UreaN-11 Creat-1.1 Na-143 
K-4.4 Cl-103 HCO3-28 AnGap-12
___ 05:50AM BLOOD ALT-20 AST-18 AlkPhos-71 TotBili-0.3
___ 05:50AM BLOOD Calcium-9.4 Phos-5.1* Mg-2.3*
___ 05:50AM BLOOD TSH-1.7
___ 01:32PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
This is an ___ year old ___ student, currently a student at 
___ with a self reported history of MDD, ADHD who presented to 
___ ED with his school counselor due to worsening depression 
and SI with thoughts of shooting himself with a gun.
.  
History significant for longstanding history of depression 
beginning about ___ years ago under unclear circumstances (patient 
denies knowing why he became depressed) with most recent episode 
starting approximately 1 month ago in the context of learning 
his mother is suffering from metastatic cancer with acute 
exacerbation in the setting of a recent breakup with his 
girlfriend, whom he described as his main support. Mental status 
examination notable for well groomed man with depressed mood, 
dysthymic affect that is congruent with mood. Of note, on denies 
current suicidal ideation or thoughts of self harm and thought 
process is notably linear, goal and future oriented. 
. 
Diagnostically, differential diagnosis includes major depressive 
disorder, recurrent, moderate to severe, without psychotic 
features vs. substance induced mood disorder with significant 
alcohol use in a binge pattern. In addition, he likely meets 
criteria for anxiety disorder with excessive worry, particularly 
regarding his mother's cancer diagnosis. Differential diagnosis 
also includes adjustment disorder with depressed and anxious 
features. In addition, given his young age, I cannot rule out 
underlying BPAD, although no evidence to suggest a prior manic 
episode. He denies history of AVH, paranoia, and nothing on my 
examination to suggest he has been psychotic in the past or is 
suffering from psychosis now-- thought process is notably 
linear, logical, goal and future oriented and he does not appear 
to be responding to internal stimuli. Of note, given his history 
of cutting, I am somewhat concerned for possible underlying 
character pathology, but given his young age, alcohol use, and 
acute presentation, I cannot diagnosis him with a personality 
disorder. 
. 
#. Legal/Safety: patient admitted to ___ on a ___, upon admission, he signed a CV, which was accepted. Patient 
maintained his safety throughout his psychiatric hospitalization 
on 15 minute checks and did not require physical or chemical 
restraints. 
. 
#. MDD, recurrent, severe, without psychotic features
- Patient was compliant in meeting with his treatment team and 
maintained excellent behavioral control in the milieu. 
- Discussed the risks and benefits of initiating an SSRI and 
patient was amenable. We started Lexapro 10 mg po qd, which he 
tolerated without complaints of side effects. 
- For anxiety, given his significant alcohol use, we discussed 
the risks and benefits of hydroxyzine, which was started at 25 
mg po q6h prn insomnia and anxiety. He tolerated this well with 
improvement in sleep and without complaints of side effects
- In the setting of the stabilizing environment of the milieu 
and particularly with improved sleep on the Vistaril, patient 
reported rapid improvement in mood and energy with improved 
appetite. He consistently denied suicidal ideation or thoughts 
of self harm during his hospitalization and stated he wished to 
return to school. 
- Discussed the risks and benefits of partial hospitalization 
programs, which he declined. Collateral was obtained by Dr. ___ 
___ with the patient's mother, who confirmed the patient 
sounded better on the phone. Mother had no concerns for safety 
with discharge and was supportive of the plan of discharge with 
referral to outpatient treaters. 
. 
#. Anxiety disorder: as noted above
- see above plan 
. 
#. Alcohol use: with binge pattern 
- No signs or symptoms of alcohol withdrawal during this 
admission
- Discussed the risks and benefits of alcohol use and strongly 
advised the patient to abstain/reduce his alcohol use. The 
patient understood these risks and stated he intended on cutting 
back his alcohol use. 

 
Medications on Admission:
None 
 
Discharge Medications:
1.  Escitalopram Oxalate 10 mg PO DAILY 
RX *escitalopram oxalate 10 mg 1 tablet(s) by mouth once a day 
Disp #*14 Tablet Refills:*0 
2.  HydrOXYzine 25 mg PO Q6H:PRN Anxiety/insomnia 
RX *hydroxyzine HCl 25 mg 1 by mouth every six (6) hours Disp 
#*56 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
MDD, recurrent, severe, without psychotic features
Unspecified anxiety disorder
R/O alcohol use disorder 

 
Discharge Condition:
VS: T 97.5, BP 106/72, HR 60, RR 16, SpO2 100% on RA
A/B: Appears stated age, dressed casually with excellent hygiene
and grooming, calm, cooperative with interviewer, good eye
contact, interacts well, no psychomotor agitation or retardation 
noted
S: normal rate, volume, prosody, goal directed
M: 'much better'
A: euthymic, mood congruent, appropriate
TC: no evidence of delusions or paranoia; talks extensively 
about feeling better and looking forward to returning back to 
school
TP: linear, logical, goal and future oriented
C: awake, alert and oriented x3 
M: short and long term memory grossly intact 
I/J: fair/fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___